US07375115B2
[1-[2-[4-[N-(p-Tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetic acid
To methyl [1-[2-[4-[N-(p-tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetate (0.5241 g) and lithium hydroxide monohydrate (0.94 g) were added 1,4-dioxane (20 mL) and water (5 mL). The resulting suspension was stirred at room temperature for 3 days. The reaction solution was brought to dryness and the residue was diluted with water. Acetic acid (1.0 mL) was then added to the solution and it was extracted with 25% ethanol/chloroform. The extract was dried over (MgSO4) and the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography (silica gel, 10% methanol/chloroform) to give the title compound (0.36 g), which was then converted to its hydrochloride by hydrochloric acid to give the title compound as a white solid (0.3805 g).

reactant | methyl [1-[2-[4-[N-(p-tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetate | 0.5241 g | C1(=CC=C(C=C1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CC(=O)OC)C | C28H38N2O4
reactant | lithium hydroxide monohydrate | 0.94 g | O.[OH-].[Li+]
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | Acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | [1-[2-[4-[N-(p-Tolyl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]acetic acid | 0.36 g | C1(=CC=C(C=C1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CC(=O)O)C | C27H36N2O4
